US06610723B2
N-{1-[1-(3,4-Dichloro-phenyl)-1H-imidazol-4-yl-methyl]-1H-imidazol-2-yl}-acetamide
A solution of 1-[1-(3,4-dichloro-phenyl)-1H-imidazol-4-yl-methyl]-1H-imidazol-2-ylamine (1.0 g, 3.2 mmol) in THF (32 ml) was treated at rt with triethylamine (0.33 g, 3.2 mmol) and acetyl chloride (0.25 g, 3.2 mmol). The mixture was stirred at rt for 2 h, filtered and the organic phase was evaporated to dryness. After chromatography [silica, elution with gradient CH2Cl2 to 50% (CH2Cl2/MeOH/aq. NH4OH=90:10:1)] the title compound (0.19 g, 17%) was isolated as a light brown solid. Mp.>236° C. dec.(AcOEt), MS: m/e=350 (M+H+).

reactant | 1-[1-(3,4-dichloro-phenyl)-1H-imidazol-4-yl-methyl]-1H-imidazol-2-ylamine | 3.2 mmol, 1.0 g | ClC=1C=C(C=CC1Cl)N1C=NC(=C1)CN1C(=NC=C1)N | C13H11Cl2N5
reactant | triethylamine | 3.2 mmol, 0.33 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 3.2 mmol, 0.25 g | C(C)(=O)Cl | C2H3ClO
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | THF | 32 ml | C1CCOC1 | C4H8O
product | N-{1-[1-(3,4-Dichloro-phenyl)-1H-imidazol-4-yl-methyl]-1H-imidazol-2-yl}-acetamide | ClC=1C=C(C=CC1Cl)N1C=NC(=C1)CN1C(=NC=C1)NC(C)=O | C15H13Cl2N5O
